### PR TITLE
[Merged by Bors] - refactor: rename `Submodule.ofLe` to `Submodule.inclusion`

### PR DESCRIPTION
**Pull request by eric-wieser**
This matches `Set.inclusion`, `Subring.inclusion`, `Subalgebra.inclusion`, etc.

Also renames the `homOfLe` spellings in `Algebra/Lie` to match.

Note that we leave `LieSubalgebra.ofLe`, as this is a completely different statement!

As requested by @alreadydone.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by alreadydone** [comment]
I think the usual way to do [LieSubalgebra.ofLe](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Lie/Subalgebra.html#LieSubalgebra.ofLe) is `comap K'.val K` where you don't need the Le assumption.

**Comment by ocfnash** [comment]
> I think the usual way to do [LieSubalgebra.ofLe](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Lie/Subalgebra.html#LieSubalgebra.ofLe) is `K.comap K'.val` where you don't need the Le assumption.

Yep, I even see that we even have `LieSubalgebra.ofLe_eq_comap_incl` so we really should nuke `LieSubalgebra.ofLe` at some point (but keep this lemma, restated appropriately).

File: Mathlib/LinearAlgebra/Basic.lean [hunk 1]
```diff
@@ -749,11 +750,11 @@ theorem mem_submoduleImage_of_le {M' : Type*} [AddCommMonoid M'] [Module R M'] {
     exact ⟨y, hNO yN, yN, h⟩
 #align linear_map.mem_submodule_image_of_le LinearMap.mem_submoduleImage_of_le
 
-theorem submoduleImage_apply_ofLe {M' : Type*} [AddCommGroup M'] [Module R M'] {O : Submodule R M}
-    (ϕ : O →ₗ[R] M') (N : Submodule R M) (hNO : N ≤ O) :
-    ϕ.submoduleImage N = range (ϕ.comp (Submodule.ofLe hNO)) := by
-  rw [submoduleImage, range_comp, Submodule.range_ofLe]
-#align linear_map.submodule_image_apply_of_le LinearMap.submoduleImage_apply_ofLe
+theorem submoduleImage_apply_of_le {M' : Type*} [AddCommGroup M'] [Module R M']
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Basic.lean:753]: I note that the new name picks up `of_le` for different reasons than the old.

File: Mathlib/Algebra/Category/ModuleCat/Subobject.lean [hunk 2]
```diff
@@ -67,7 +67,7 @@ noncomputable def subobjectModule : Subobject M ≃o Submodule R M :=
           rw [this, comp_def, LinearEquiv.range_comp]
         · exact (Submodule.range_subtype _).symm
       map_rel_iff' := fun {S T} => by
-        refine' ⟨fun h => _, fun h => mk_le_mk_of_comm (↟(Submodule.ofLe h)) rfl⟩
+        refine' ⟨fun h => _, fun h => mk_le_mk_of_comm (↟(Submodule.inclusion h)) rfl⟩
```
Comment (alreadydone) [inline Mathlib/Algebra/Category/ModuleCat/Subobject.lean:70]: Hmm, first time seeing this ↟ 🤯

**Review by ocfnash — COMMENTED** [review]
Thanks!

bors merge

File: Mathlib/LinearAlgebra/Basic.lean [hunk 3]
```diff
@@ -640,18 +640,19 @@ theorem comap_subtype_self : comap p.subtype p = ⊤ :=
...
+    range (inclusion h) = comap q.subtype p := by
+  rw [← map_top, inclusion, LinearMap.map_codRestrict, map_top, range_subtype]
+#align submodule.range_of_le Submodule.range_inclusion
 
 @[simp]
-theorem map_subtype_range_ofLe {p p' : Submodule R M} (h : p ≤ p') :
-    map p'.subtype (range $ ofLe h) = p := by simp [range_ofLe, map_comap_eq, h]
-#align submodule.map_subtype_range_of_le Submodule.map_subtype_range_ofLe
+theorem map_subtype_range_inclusion {p p' : Submodule R M} (h : p ≤ p') :
+    map p'.subtype (range $ inclusion h) = p := by simp [range_inclusion, map_comap_eq, h]
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Basic.lean:654]:
```suggestion
    map p'.subtype (range <| inclusion h) = p := by simp [range_inclusion, map_comap_eq, h]
```

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 4]
```diff
@@ -1232,23 +1233,26 @@ theorem bot_of_map_eq_bot {I : LieIdeal R L} (h₁ : Function.Injective f) (h₂
 #align lie_ideal.bot_of_map_eq_bot LieIdeal.bot_of_map_eq_bot
 
 /-- Given two nested Lie ideals `I₁ ⊆ I₂`, the inclusion `I₁ ↪ I₂` is a morphism of Lie algebras. -/
-def homOfLe {I₁ I₂ : LieIdeal R L} (h : I₁ ≤ I₂) : I₁ →ₗ⁅R⁆ I₂ :=
-  { Submodule.ofLe (show I₁.toSubmodule ≤ I₂.toSubmodule from h) with map_lie' := fun {_ _} ↦ rfl }
-#align lie_ideal.hom_of_le LieIdeal.homOfLe
+def inclusion {I₁ I₂ : LieIdeal R L} (h : I₁ ≤ I₂) : I₁ →ₗ⁅R⁆ I₂ where
+  __ := Submodule.inclusion (show I₁.toSubmodule ≤ I₂.toSubmodule from h)
```
Comment (alreadydone) [inline Mathlib/Algebra/Lie/Submodule.lean:1237]:
```suggestion
  __ := Submodule.inclusion h
```
(untested)

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 5]
```diff
@@ -658,22 +658,23 @@ theorem injective_incl : Function.Injective N.incl := Subtype.coe_injective
 variable {N N'} (h : N ≤ N')
 
 /-- Given two nested Lie submodules `N ⊆ N'`, the inclusion `N ↪ N'` is a morphism of Lie modules.-/
-def homOfLe : N →ₗ⁅R,L⁆ N' :=
-  { Submodule.ofLe (show N.toSubmodule ≤ N'.toSubmodule from h) with map_lie' := fun {_ _} ↦ rfl }
-#align lie_submodule.hom_of_le LieSubmodule.homOfLe
+def inclusion : N →ₗ⁅R,L⁆ N' where
+  __ := Submodule.inclusion (show N.toSubmodule ≤ N'.toSubmodule from h)
```
Comment (alreadydone) [inline Mathlib/Algebra/Lie/Submodule.lean:662]: same here

File: Mathlib/Algebra/Lie/Subalgebra.lean [hunk 6]
```diff
@@ -594,32 +594,32 @@ variable (h : K ≤ K')
 
 /-- Given two nested Lie subalgebras `K ⊆ K'`, the inclusion `K ↪ K'` is a morphism of Lie
 algebras. -/
-def homOfLe : K →ₗ⁅R⁆ K' :=
-  { Submodule.ofLe h with map_lie' := @fun _ _ ↦ rfl }
-#align lie_subalgebra.hom_of_le LieSubalgebra.homOfLe
+def inclusion : K →ₗ⁅R⁆ K' :=
+  { Submodule.inclusion h with map_lie' := @fun _ _ ↦ rfl }
```
Comment (alreadydone) [inline Mathlib/Algebra/Lie/Subalgebra.lean:598]:
```suggestion
def inclusion : K →ₗ⁅R⁆ K' where
  __ := Submodule.inclusion h
  map_lie' {_ _} := rfl
```
since you changed the others (untested)

**Review by alreadydone — APPROVED** [review]
Thanks!

**Comment by eric-wieser** [comment]
Sorry @alreadydone, I didn't see those comments in time. At any rate, this was mostly just a find and replace, so I didn't make any attempt to clean up (or even look at!) any surrounding code, unless it broke

**Comment by alreadydone** [comment]
Yeah I understand, and the cleanups weren't important enough for me to abort the merge.
